US06326510B1
(a) Methyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloylamino]benzoate
In a similar manner to that of Example 1(d), by reaction of 1.5 g (10 mmol) of methyl 4-amino-benzoate with 2.8 g (10 mmol) of 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyl chloride, 3.2 g (82%) of the expected methyl ester are obtained.

reactant | methyl 4-amino-benzoate | 10 mmol, 1.5 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyl chloride | 10 mmol, 2.8 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)Cl)C | C17H21ClO
product | Methyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloylamino]benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)NC1=CC=C(C(=O)OC)C=C1)C | C25H29NO3
